.title kicad schematic

* u35 net-_u35-pad1_ net-_u33-pad1_ d_inverter
* u27 net-_u27-pad1_ net-_u25-pad1_ d_inverter
* u5 net-_u14-pad2_ net-_u18-pad1_ net-_u14-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u15-pad2_ unconnected-_u5-pad7_ net-_u24-pad2_ net-_u32-pad2_ net-_u39-pad2_ net-_u35-pad1_ net-_u27-pad1_ unconnected-_u5-pad14_ port
* u33 net-_u33-pad1_ net-_u14-pad2_ net-_u33-pad3_ d_and
* u38 net-_u35-pad1_ net-_u14-pad2_ net-_u37-pad1_ d_and
* u31 net-_u27-pad1_ net-_u14-pad2_ net-_u30-pad1_ d_and
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u11-pad1_ d_or
* u17 net-_u17-pad1_ net-_u16-pad3_ net-_u11-pad2_ d_nor
* u16 net-_u16-pad1_ net-_u14-pad2_ net-_u16-pad3_ d_and
* u32 net-_u28-pad3_ net-_u32-pad2_ d_inverter
* u28 net-_u28-pad1_ net-_u1-pad2_ net-_u28-pad3_ d_or
* u29 net-_u12-pad1_ net-_u26-pad1_ net-_u28-pad1_ d_or
* u37 net-_u37-pad1_ net-_u12-pad1_ net-_u34-pad1_ d_nor
* u34 net-_u34-pad1_ net-_u33-pad3_ net-_u12-pad1_ d_nor
* u30 net-_u30-pad1_ net-_u12-pad2_ net-_u26-pad1_ d_nor
* u26 net-_u26-pad1_ net-_u25-pad3_ net-_u12-pad2_ d_nor
* u22 net-_u22-pad1_ net-_u11-pad2_ net-_u17-pad1_ d_nor
* u36 net-_u34-pad1_ net-_u1-pad2_ net-_u36-pad3_ d_or
* u39 net-_u36-pad3_ net-_u39-pad2_ d_inverter
* u25 net-_u25-pad1_ net-_u14-pad2_ net-_u25-pad3_ d_and
* u18 net-_u18-pad1_ net-_u16-pad1_ d_inverter
* u23 net-_u18-pad1_ net-_u14-pad2_ net-_u22-pad1_ d_and
* u3 net-_u3-pad1_ net-_u11-pad2_ net-_u2-pad1_ d_or
* u4 net-_u12-pad1_ net-_u12-pad2_ net-_u3-pad1_ d_or
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ d_or
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u9 net-_u10-pad3_ net-_u1-pad2_ net-_u15-pad1_ d_or
* u2 net-_u2-pad1_ net-_u13-pad2_ net-_u1-pad1_ d_or
* u20 net-_u20-pad1_ net-_u17-pad1_ net-_u19-pad1_ d_or
* u19 net-_u19-pad1_ net-_u1-pad2_ net-_u19-pad3_ d_or
* u24 net-_u19-pad3_ net-_u24-pad2_ d_inverter
* u21 net-_u12-pad1_ net-_u12-pad2_ net-_u20-pad1_ d_or
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u10-pad1_ d_or
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u10-pad2_ d_nor
* u7 net-_u10-pad2_ net-_u6-pad3_ net-_u13-pad2_ d_nor
* u6 net-_u6-pad1_ net-_u14-pad2_ net-_u6-pad3_ d_and
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u13-pad1_ d_and
* u8 net-_u14-pad1_ net-_u6-pad1_ d_inverter
a1 net-_u35-pad1_ net-_u33-pad1_ u35
a2 net-_u27-pad1_ net-_u25-pad1_ u27
a3 [net-_u33-pad1_ net-_u14-pad2_ ] net-_u33-pad3_ u33
a4 [net-_u35-pad1_ net-_u14-pad2_ ] net-_u37-pad1_ u38
a5 [net-_u27-pad1_ net-_u14-pad2_ ] net-_u30-pad1_ u31
a6 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u11-pad1_ u12
a7 [net-_u17-pad1_ net-_u16-pad3_ ] net-_u11-pad2_ u17
a8 [net-_u16-pad1_ net-_u14-pad2_ ] net-_u16-pad3_ u16
a9 net-_u28-pad3_ net-_u32-pad2_ u32
a10 [net-_u28-pad1_ net-_u1-pad2_ ] net-_u28-pad3_ u28
a11 [net-_u12-pad1_ net-_u26-pad1_ ] net-_u28-pad1_ u29
a12 [net-_u37-pad1_ net-_u12-pad1_ ] net-_u34-pad1_ u37
a13 [net-_u34-pad1_ net-_u33-pad3_ ] net-_u12-pad1_ u34
a14 [net-_u30-pad1_ net-_u12-pad2_ ] net-_u26-pad1_ u30
a15 [net-_u26-pad1_ net-_u25-pad3_ ] net-_u12-pad2_ u26
a16 [net-_u22-pad1_ net-_u11-pad2_ ] net-_u17-pad1_ u22
a17 [net-_u34-pad1_ net-_u1-pad2_ ] net-_u36-pad3_ u36
a18 net-_u36-pad3_ net-_u39-pad2_ u39
a19 [net-_u25-pad1_ net-_u14-pad2_ ] net-_u25-pad3_ u25
a20 net-_u18-pad1_ net-_u16-pad1_ u18
a21 [net-_u18-pad1_ net-_u14-pad2_ ] net-_u22-pad1_ u23
a22 [net-_u3-pad1_ net-_u11-pad2_ ] net-_u2-pad1_ u3
a23 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u3-pad1_ u4
a24 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a25 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u1-pad3_ u1
a26 net-_u15-pad1_ net-_u15-pad2_ u15
a27 [net-_u10-pad3_ net-_u1-pad2_ ] net-_u15-pad1_ u9
a28 [net-_u2-pad1_ net-_u13-pad2_ ] net-_u1-pad1_ u2
a29 [net-_u20-pad1_ net-_u17-pad1_ ] net-_u19-pad1_ u20
a30 [net-_u19-pad1_ net-_u1-pad2_ ] net-_u19-pad3_ u19
a31 net-_u19-pad3_ net-_u24-pad2_ u24
a32 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u20-pad1_ u21
a33 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u10-pad1_ u11
a34 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u10-pad2_ u13
a35 [net-_u10-pad2_ net-_u6-pad3_ ] net-_u13-pad2_ u7
a36 [net-_u6-pad1_ net-_u14-pad2_ ] net-_u6-pad3_ u6
a37 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u13-pad1_ u14
a38 net-_u14-pad1_ net-_u6-pad1_ u8
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u12 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u17 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u28 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u29 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u37 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u34 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u30 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u36 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u39 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u3 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u4 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u1 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u9 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u2 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u19 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u21 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u7 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
